US06943183B2
1. 6-((S)-2-Imidazol-1-yl-1-pyridin-3-yl-ethoxy)-5-nitro-3,4-dihydro-2H-naphthalen-1-one
To a solution of 6-hydroxy-5-nitro-1-tetralone (0.957 g, 4.62 mmol) in dry THF (20 mL) was added (R)-2-imidazol-1-yl-1-pyridin-3-yl-ethanol (0.875 g, 4.62 mmol) followed by triphenylphospine (1.33 g, 5.08 mmol). After approximately 10 min, diethylazodicarboxylate (0.80 mL, 5.08 mmol) was added slowly. The reaction became homogenous. The reaction was allowed to stir at RT overnight. The reaction mixture was concentrated under reduced pressure and the residue was triturated with Et2O to remove some of the phospine by-products. The residue was dissolved in EtOAc and washed with H2O, saturated aqueous NaHCO3 and brine, dried over Na2SO4, and concentrated to give a foam/oil. Purification by chromatography (SiO2, 4-10% MeOH/CH2Cl2) afforded the title compound as a tan foam (1.66 g, 4.39 mmol, 95%). The structure was confirmed by NMR and mass spectrometry. MS m/z 379 (M++H).

reactant | 6-hydroxy-5-nitro-1-tetralone | 4.62 mmol, 0.957 g | OC=1C(=C2CCCC(C2=CC1)=O)[N+](=O)[O-] | C10H9NO4
reactant | (R)-2-imidazol-1-yl-1-pyridin-3-yl-ethanol | 4.62 mmol, 0.875 g | N1(C=NC=C1)C[C@H](O)C=1C=NC=CC1 | C10H11N3O
reactant | triphenylphospine | 5.08 mmol, 1.33 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 5.08 mmol, 0.80 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 6-((S)-2-Imidazol-1-yl-1-pyridin-3-yl-ethoxy)-5-nitro-3,4-dihydro-2H-naphthalen-1-one | 4.39 mmol, 1.66 g, 95% | N1(C=NC=C1)C[C@@H](OC=1C(=C2CCCC(C2=CC1)=O)[N+](=O)[O-])C=1C=NC=CC1 | C20H18N4O4
